US07557135B2
(2-Trifluoromethylphenyl)methanesulfonic acid sodium salt (22.2 g, 84 mmol) was suspended in MeOH (950 mL) and cooled to −20° C. At that temp with continued cooling HCl (g) was bubbled through the mixture for 5 min. The resulting white suspension was stirred at room temperature for 1.5 h, then cooled in an ice-bath. The resulting suspension was filtered and the collected solid allowed to air-dry overnight to afford (2-trifluoromethylphenyl)methanesulfonic acid (20.3 g, ˜100%), a white solid, which was used without further purification

reactant | (2-Trifluoromethylphenyl)methanesulfonic acid sodium salt | 84 mmol, 22.2 g | [Na+].FC(C1=C(C=CC=C1)CS(=O)(=O)[O-])(F)F
reactant | HCl | Cl | ClH
solvent | MeOH | 950 mL | CO | CH4O
product | (2-trifluoromethylphenyl)methanesulfonic acid | 20.3 g, ~100% | FC(C1=C(C=CC=C1)CS(=O)(=O)O)(F)F | C8H7F3O3S
